US04904680
Synthesis of N-(α,α-dimethylbenzyl)-3-(benzyloxycarbonylamino)propionamide
6.6 g of N-benzyloxycarbonyl-β-alanine, 4.0 g of α,α-dimethylbenzylamine and 7.4 g of triethylamine were dissolved in 400 ml of anhydrous methylene chloride. To this solution were then added 8.8 g of 2-chloro-1-methylpyridinium iodide slowly at room temperature, and the mixture was heated under reflux for 2 hours. The reaction mixture was then washed, in turn, with a 10% w/v aqueous solution of sodium hydroxide, with a 1N aqueous solution of hydrochloric acid and with a saturated aqueous solution of sodium chloride, and was then dried over anhydrous sodium sulfate. The solution was concentrated by evaporation under reduced pressure, to give 10.7 g of crude crystals. Recrystallization of these from a mixture of hexane and benzene afforded 5.6 g (yield 56%) of the title compound melting at 96°-97° C.

reactant | N-benzyloxycarbonyl-β-alanine | 6.6 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | α,α-dimethylbenzylamine | 4.0 g | CC(C1=CC=CC=C1)(C)N | C9H13N
reactant | triethylamine | 7.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpyridinium iodide | 8.8 g | [I-].ClC1=[N+](C=CC=C1)C
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | N-(α,α-dimethylbenzyl)-3-(benzyloxycarbonylamino)propionamide | 5.6 g, yield 56% | CC(C1=CC=CC=C1)(C)NC(CCNC(=O)OCC1=CC=CC=C1)=O | C20H24N2O3
